US08835428B2
3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbothioic acid amide
To a solution of 3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carboxylic acid amide (3.54 g; 10 mmol) in dioxane (25 ml), was added Lawesson's reagent (4.11 g; 10 mmol) and the resulting reaction mixture was refluxed for 45 min. The pH of the reaction mixture was adjusted to near neutral, the solvent was removed and the residue was diluted with water (20 ml) and extracted with EtOAc (3×30 ml). The EtOAc layer was washed with water (3×10 ml) followed by brine (10 ml), and dried over anhydrous Na2SO4. The solvent was removed, and the residue was triturated with dichloromethane, filtered and dried to afford 3.0 g (80%) of the title compound. Mass (ES−), 369 (M−1); IR (KBr): 3282 (br), 3142 (br), 1651, 1608, 1588, 1555, 1441 (br); 1H NMR (DMSO-d6) δ: 7.18 (m, 1H), 7.58 (s, 1H), 7.65 (m, 1H), 7.77 (m, 1H), 7.88-7.94 (br, 4H), 7.97, 10.33 (2×br, 2H), 10.79 (s, 1H).

reactant | 3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carboxylic acid amide | 10 mmol, 3.54 g | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=NOC(=C2)C(=O)N)C=C1 | C17H11FN4O2S
reactant | Lawesson's reagent | 10 mmol, 4.11 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbothioic acid amide | 3.0 g, 80% | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=NOC(=C2)C(N)=S)C=C1 | C17H11FN4OS2
